US04115122
13.5 g of benzothiazole was mixed with 13.1 g of propargyl bromide. The mixture was heated at 80° to 100° C for one hour on a hot water bath to solidify it. After cooling to room temperature (about 20°- 30° C), the solid was washed with acetone to give 21 g of 3-propargylbenzothiazolium bromide, m.p. 209°- 210° C.

reactant | benzothiazole | 13.5 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | propargyl bromide | 13.1 g | C(C#C)Br | C3H3Br
product | 3-propargylbenzothiazolium bromide | 21 g | [Br-].C(C#C)[N+]1=CSC2=C1C=CC=C2 | InChI=1S/C10H8NS.BrH/c1-2-7-11-8-12-10-6-4-3-5-9(10)11;/h1,3-6,8H,7H2;1H/q+1;/p-1
